.SUBCKT UCC27519 IN+ EN VDD OUT VGND
X1_UCC27519 IN+ EN VDD OUT VGND UCC27519_TRANS
.ENDS

.SUBCKT UCC27519_TRANS IN+ EN VDD OUT VGND
E_U1_ABM3         U1_INM_OK 0 VALUE { IF(V(IN+) +  V(U1_INM_OK)*V(U1_17PERCENT_VDD) > V(U1_58PERCENT_VDD), 1, 0)    }
E_U1_ABM4         U1_EN_OK 0 VALUE { IF(V(EN) + V(U1_EN_OK)*1 > 2.2, 1, 0)    }
R_U1_R1         VDD EN  200k  
X_U1_U4         U1_UVLO U1_EN_OK U1_INM_OK DRV AND3_BASIC_GEN
E_U1_E1         U1_58PERCENT_VDD VGND VDD VGND 0.58
E_U1_ABM5         U1_UVLO 0 VALUE { IF(V(VDD) + 0.3*V(U1_UVLO) > 4.2 , 1, 0)   
+  }
E_U1_E2         U1_17PERCENT_VDD VGND VDD VGND 0.17
R_U1_R2         IN+ VGND 200k  
C_U2_C3         OUT U2_N215963  10p  
E_U2_E1         U2_N223861 OUT VALUE { IF(V(U2_N218110, 0) > 0.5, 5, -5) }
C_U2_C5         OUT VDD  10pF  
M_U2_M1         U2_N215897 U2_N215963 OUT OUT NMOS01  
+ L=6u  
+ W=4.5u         
E_U2_E2         OUT U2_N224336 VALUE { IF(V(U2_N218110, 0) > 0.5, -5, 5) }
M_U2_M2         U2_N216211 U2_N215967 OUT OUT PMOS01  
+ L=6.8u  
+ W=5.8u         
R_U2_R4         VDD U2_N215897  0.02  
C_U2_C6         OUT U2_N215967  10p  
R_U2_R2         U2_N224336 U2_N215967  20  
R_U2_R5         U2_N216211 VGND  0.02  
X_U2_U1         DRV U2_N218110 DELAY PARAMS:  RINP=1K DELAY=7.2n
C_U2_C1         U2_N215963 U2_N215897  5p  
C_U2_C2         U2_N216211 U2_N215967  5p  
R_U2_R1         U2_N223861 U2_N215963  20  
C_U2_C4         VGND OUT  10pF  

.model NMOS01 nmos
+ vto=2
+ kp=0.889
+ lambda=0.001

.model PMOS01 pmos
+ vto=-2
+ kp=0.889
+ lambda=0.001
.ENDS UCC27519_TRANS
*$

.SUBCKT DELAY INP OUT PARAMS: RINP = 1k DELAY = 10n 
R1 INP 101 {RINP}
C1 101 102 { 1.4427 * DELAY / RINP }
E1 102   0 OUT   0 0.5
E2 OUT   0 VALUE {IF(V(101) > 0.5, 1, 0)}
.ENDS DELAY
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

BE_ABMGATE  0  Y i=IF(V(A) > {VTHRESH} ,{VSS},{VDD}) Rpar=1 Cpar=1n
.ENDS INV_BASIC_GEN
*
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
BE_ABMGATE  0  Y V=IF(V(A) > {VTHRESH}  &  V(B) > {VTHRESH} & V(C) > {VTHRESH},{VDD},{VSS}) Rpar=1 Cpar=1n
.ENDS AND3_BASIC_GEN